US04189429
In a flame dried 250 ml, three-necked flask equipped with magnetic stirring bar, reflux condenser with nitrogen inlet and rubber septum on one side neck, are placed 1.63 g (5.0 mmol) 1,4-bis(2-hydroxyethylamino)anthraquinone (C.I. Disperse Blue 23, available as Disperse Blue NSP from Inmont Corporation), 4 ml triethylamine and 50 ml tetrahydrofurane (THF) (Aldrich, freshly opened). The mixture is purged with nitrogen and stirred until the dye is at least partially dissolved and 1.55 ml (12 mmol) trimethylchlorosilane is added to the mixture during a two minute period by means of a syringe having its needle through the septum. A mild exothermic reaction occurs and a precipitate forms immediately. The color of the mixture remains deep blue throughout the reaction. After stirring overnight, the reaction mixture is filtered and the whitish solid (triethylamine hydrochloride) washed with fresh THF until it remains white. The filtrate is evaporated on a rotary evaporator and the residue recrystallized from hot hexane. 1,4-Bis(2-trimethylsilyloxyethylamino)anthraquinone is obtained in two crops of blue needles in 86% yield, m.p. 123°-126° C.

reactant | 1,4-bis(2-hydroxyethylamino)anthraquinone | 5.0 mmol, 1.63 g | OCCNC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NCCO | C18H18N2O4
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylchlorosilane | 12 mmol, 1.55 ml | C[Si](Cl)(C)C | C3H9ClSi
solvent | tetrahydrofurane | 50 ml | O1CCCC1 | C4H8O
product | 1,4-Bis(2-trimethylsilyloxyethylamino)anthraquinone | 86% yield | C[Si](OCCNC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NCCO[Si](C)(C)C)(C)C | C24H34N2O4Si2
